US04186199
A stirred solution, under N2, of 8.7 g of 1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine in 125 ml of xylene is heated to 100° C. when 7.34 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) is added in one portion. The mixture is brought to reflux and kept there for 3.0 hours. After cooling to room temperature, the liquid is filtered and the residue remaining in the flask is rinsed with xylene. The xylene filtrate is concentrated to an oil. This oil is dissolved in ethanol, and the solution is allowed to cool at 0° C. The crystals so obtained are filtered, washed with a little ethanol, then dried to yield 6-phenylindolo[1,7-ab][1,5]benzodiazepine, m.p. 128°-136° C.

reactant | 1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine | 8.7 g | C1(=CC=CC=C1)C=1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C21H16N2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 7.34 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | xylene | 125 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-phenylindolo[1,7-ab][1,5]benzodiazepine | C1(=CC=CC=C1)C=1C2=C3N(C4=C(N1)C=CC=C4)C=CC3=CC=C2 | C21H14N2
